US08431575B2
To a solution of 4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-4-fluoro-piperidine-1-carboxylic acid tert-butyl ester (0.15 mmol, 85 mg) in DCM (1 mL) was added 4 N HCl in dioxane (1.5 mL) and the reaction was stirred for 30 min. The volatiles were removed in vacuo and the residue was triturated with anhydrous ethyl ether (2×3 mL) and dried under high vacuum to provide 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-fluoro-piperidin-4-ylmethoxy)-pyridazine dihydrochloride (0.078 g).

reactant | 4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-4-fluoro-piperidine-1-carboxylic acid tert-butyl ester | 0.15 mmol, 85 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C31H44FN3O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-fluoro-piperidin-4-ylmethoxy)-pyridazine dihydrochloride | 0.078 g | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC1(CCNCC1)F | InChI=1S/C26H36FN3O2.2ClH/c1-2-3-9-24-23(18-25(30-29-24)31-19-26(27)14-16-28-17-15-26)20-10-12-22(13-11-20)32-21-7-5-4-6-8-21;;/h10-13,18,21,28H,2-9,14-17,19H2,1H3;2*1H
